US08334287B2
1-(2-Hydroxy-ethyl)-4-(2-methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one
The title compound, light yellow solid, MS: m/e=334.2 (M+H+), was prepared in accordance with the general method of example 3 from 4-(2-Methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one and 2-iodoethanol.

reactant | 4-(2-Methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one | CC=1N(C=C(N1)C#CC=1C=C(C=CC1)C)C1=CC(NC=C1)=O | C18H15N3O
reactant | 2-iodoethanol | ICCO | C2H5IO
product | 1-(2-Hydroxy-ethyl)-4-(2-methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one | OCCN1C(C=C(C=C1)N1C(=NC(=C1)C#CC=1C=C(C=CC1)C)C)=O | C20H19N3O2
